US04668505
cyclohexyl p-methoxycinnamate
2-ethoxyethyl p-methoxycinnamate or "Cinoxate" according to the common international name, sold under the trade name Giv-Tan F;

reactant | 2-ethoxyethyl p-methoxycinnamate | COC1=CC=C(C=CC(=O)OCCOCC)C=C1 | C14H18O4
reactant | Cinoxate | CCOCCOC(=O)/C=C/C=1C=CC(=CC1)OC | C14H18O4
reactant | Giv-Tan F | CCOCCOC(=O)/C=C/C1=CC=C(C=C1)OC | C14H18O4
product | cyclohexyl p-methoxycinnamate | COC1=CC=C(C=CC(=O)OC2CCCCC2)C=C1 | C16H20O3
